*-----------------------------------------------
* 　　　　模拟电路基础：                        
* 　　　　　　从系统级到电路级                  
*-----------------------------------------------
*　　　　陈抗生，周金芳                        
*　　　　科学出版社　2019                      
*-----------------------------------------------
*　　　　中国大学MOOC: 
*  https://www.icourse163.org/course/ZJU-1206452827
*-----------------------------------------------
*
*　　　　参见PPT第18页

.title OPAMP_unity_gain

.include 'OPA.cdl'

X1 1 3 3 4 5 OPAMP
* 1 vip  * 2 vin  * 3 vout  * 4 VDD  * 5 VSS
VDD 4 0 DC  2.5 
VSS 0 5 DC  2.5
vvip 1 0 PWL(0 -2 10N -2 20N 2 2U 2 2.01U -2 4U -2 4.01U
+ -0.1 6U -0.1 6.01U 0.1 8U 0.1 8.01U -0.1 10U -0.1)
CL 3 0 10P

.DC vvip -2.5 2.5 0.1		     * 直流扫描仿真
.probe dc v(3)	id5=id(X1.M5)					
						
.TRAN 0.05U 10U 0 10n		 * 瞬态仿真
.probe tran v(3) v(1)

.option post probe

.end