**************************************************
* 　　模拟电路基础——从系统级到电路级             *
**************************************************
* 　　　　　陈抗生　周金芳                       *
**************************************************
* 　　　　 科学出版社　2020                      *
**************************************************

.title OPA_open_loop

.include 'OPA.cdl'

x1 1 2 3 4 5 OPAMP
* 1 vip
* 2 vin
* 3 vout
* 4 VDD
* 5 VSS
VDD 4 0 DC  2.5
VSS 0 5 DC  2.5
vvip 1 0 DC 0 AC 1.0
vvin 2 0 DC 0
CL 3 0 10P

.op											   * 分析电路直流工作点
.tf v(3) vvip		    		   * 计算小信号传输函数
.dc vvip -0.005 0.005 100U * 直流仿真，设置扫描变量
.probe dc v(3)						 * 观察输出翻转

.ac dec 10 1 1g
.print ac vdb(3) vp(3)

.temp 27								   
.option post accurate probe

.end